US07371743B2
(d) N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-3-methylsulphanyl-propyl]-4-(morpholin-3-on-4-yl)-3-nitro-benzamide
237 mg (0.93 mmol) of (1S)-1-(5-chloro-1H-benzimidazol-2-yl)-3-methylsulphanyl-propylamine are dissolved with 0.257 ml TEA in 10 ml THF and a solution of 290 mg (1.02 mmol) 4-(morpholin-3-on-4-yl)-3-nitro-benzoic acid chloride in 10 ml THF is added dropwise. The reaction mixture is stirred for 16 hours at ambient temperature and then evaporated down i. vac. The residue is purified by chromatography on silica gel (eluting gradient: dichloromethane/ethanol 100:0->95:5).

reactant | (1S)-1-(5-chloro-1H-benzimidazol-2-yl)-3-methylsulphanyl-propylamine | 0.93 mmol, 237 mg | ClC1=CC2=C(NC(=N2)[C@H](CCSC)N)C=C1 | C11H14ClN3S
reactant | 4-(morpholin-3-on-4-yl)-3-nitro-benzoic acid chloride | 1.02 mmol, 290 mg | N1(C(COCC1)=O)C1=C(C=C(C(=O)Cl)C=C1)[N+](=O)[O-] | C11H9ClN2O5
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-3-methylsulphanyl-propyl]-4-(morpholin-3-on-4-yl)-3-nitro-benzamide | ClC1=CC2=C(NC(=N2)[C@H](CCSC)NC(C2=CC(=C(C=C2)N2C(COCC2)=O)[N+](=O)[O-])=O)C=C1 | C22H22ClN5O5S
